US05506267
[4-(6,7-bis(palmitoyloxy)-4-thiaheptanoylamino)benzoyl)aspartic acid di-t-butyl ester
To a solution of 4-aminobenzoylaspartic acid di-t-butyl ester (168 mg) in pyridine (2.3 ml), phosphorus trichloride (0.02 ml) was added, followed by stirring at room temperature for 2 hours. To the mixture, 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid as obtained in Reference Example 4 (150 mg) was added, followed by stirring at room temperature for 64 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The extract was washed with a 5% aqueous solution of citric acid, a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate =3:1) to yield the title compound (197 mg, yield 85%) as a wax-like substance.

reactant | 4-aminobenzoylaspartic acid di-t-butyl ester | 168 mg | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)N)=O)CC(=O)OC(C)(C)C)=O | C19H28N2O5
reactant | 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)O)COC(CCCCCCCCCCCCCCC)=O | C38H72O6S
reactant | water | O | H2O
solvent | pyridine | 2.3 ml | N1=CC=CC=C1 | C5H5N
solvent | phosphorus trichloride | 0.02 ml | P(Cl)(Cl)Cl | Cl3P
product | [4-(6,7-bis(palmitoyloxy)-4-thiaheptanoylamino)benzoyl)aspartic acid di-t-butyl ester | 197 mg, yield 85% | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)NC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)=O)CC(=O)OC(C)(C)C)=O | C57H98N2O10S
